### PR TITLE
[Merged by Bors] - chore: cleanup API for distributors in preadditive monoidal categories

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Preadditive.lean [hunk 1]
```diff
@@ -190,18 +209,40 @@ theorem rightDistributor_hom {J : Type} [Fintype J] (X : C) (f : J → C) :
...
   dsimp [rightDistributor, Functor.mapBiproduct, Functor.mapBicone]
   simp only [biproduct.ι_desc, Preadditive.comp_sum, ne_eq, biproduct.ι_π_assoc, dite_comp,
     zero_comp, Finset.sum_dite_eq, Finset.mem_univ, eqToHom_refl, Category.id_comp, ite_true]
 #align category_theory.right_distributor_inv CategoryTheory.rightDistributor_inv
 
-theorem rightDistributor_assoc {J : Type} [Fintype J] (X Y : C) (f : J → C) :
-    (rightDistributor X f ⊗ asIso (𝟙 Y)) ≪≫ rightDistributor Y _ =
-      α_ (⨁ f) X Y ≪≫ rightDistributor (X ⊗ Y) f ≪≫ biproduct.mapIso fun j => (α_ _ X Y).symm := by
+@[reassoc (attr := simp)]
+theorem rightDistributor_hom_comp_biproduct_π {J : Type} [Fintype J] (X : C) (f : J → C) (j : J) :
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Preadditive.lean:221]: I wonder if for consistency all of these lemmas should use the order
```suggestion
theorem rightDistributor_hom_comp_biproduct_π {J : Type} [Fintype J] (f : J → C) (X : C) (j : J) :
```

File: Mathlib/CategoryTheory/Monoidal/Preadditive.lean [hunk 2]
```diff
@@ -235,4 +277,90 @@ theorem leftDistributor_rightDistributor_assoc {J : Type _} [Fintype J] (X Y : C
...
+  apply (cancel_mono (leftDistributor Y f).hom).mp
+  ext
+  simp? [leftDistributor_hom, Preadditive.sum_comp, Preadditive.comp_sum_assoc, biproduct.ι_π,
+    comp_dite] says
+    simp only [leftDistributor_hom, Category.assoc, Preadditive.sum_comp, ne_eq, biproduct.ι_π,
+      comp_dite, comp_zero, Finset.sum_dite_eq', Finset.mem_univ, eqToHom_refl, Category.comp_id,
+      ite_true]
+  apply w
+
+-- One might wonder how iterated tensor products we need simp lemmas for.
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Preadditive.lean:303]: Should this be
```suggestion
-- One might wonder how many iterated tensor products we need simp lemmas for.
```

File: Mathlib/CategoryTheory/Monoidal/Preadditive.lean [hunk 3]
```diff
@@ -235,4 +277,90 @@ theorem leftDistributor_rightDistributor_assoc {J : Type _} [Fintype J] (X Y : C
   simp only [associator_inv_naturality, Iso.hom_inv_id_assoc]
 #align category_theory.left_distributor_right_distributor_assoc CategoryTheory.leftDistributor_rightDistributor_assoc
 
+@[ext]
+theorem leftDistributor_ext_left {J : Type} [Fintype J] (X Y : C) (f : J → C) (g h : X ⊗ ⨁ f ⟶ Y)
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Preadditive.lean:281]: Here and in the remaining lemmas, should `X`, `Y` and `f` be implicit?

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
